US04329471
A mixture of 46.4 g of 1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one and 200 ml of acetic anhydride is refluxed for 2 hours. The mixture is distilled to remove 100 ml of acetic anhydride and acetic acid; this is replaced by fresh acetic anhydride and refluxing is resumed. After a total of 4 hours of reflux, excess acetic anhydride is evaporated under reduced pressure and the resulting residue is crystallized from ethanol to give 1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one melting at about 123°-125° C.

reactant | 1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one | 46.4 g | COC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C12H12N2O3
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-5-methyl-2H-imidazol-2-one | C(C)(=O)N1C(N(C(=C1C)C(C1=CC=C(C=C1)OC)=O)C(C)=O)=O | C16H16N2O5
